US04636523
In a manner similar to Step A of Example 1, the reaction of 26.0 g (0.25 mole) 2,6-dichlorothiophenol, 20.0 g (0.15 mole) potassium carbonate and 75.4 g (0.30 mole) 1,2-dibromotetrafluoroethane in 200 ml of N,N-dimethylformamide produced 31.5 g of 2-(2-bromo-1,1,2,2-tetrafluoroethylthio)-1,3-dichlorobenzene as an oil. The nmr and ir spectra were consistent with the proposed structure.

reactant | 2,6-dichlorothiophenol | 0.25 mole, 26.0 g | ClC1=C(C(=CC=C1)Cl)S | C6H4Cl2S
reactant | potassium carbonate | 0.15 mole, 20.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromotetrafluoroethane | 0.30 mole, 75.4 g | BrC(C(Br)(F)F)(F)F | C2Br2F4
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-(2-bromo-1,1,2,2-tetrafluoroethylthio)-1,3-dichlorobenzene | 31.5 g | BrC(C(SC1=C(C=CC=C1Cl)Cl)(F)F)(F)F | C8H3BrCl2F4S
